US07368476B2
To a solution of 4-[2-(3-benzofuran-2-yl-4-bromobut-2-enoylamino)ethoxy]benzoic acid methyl ester (300 mg, 0.654 mmol) in dry DMF (4 ml), cessium hydroxide monohydrate (121 mg, 0.72 mmol), tetrabutylammonium iodide (49 mg, 0.13 mmol) and 1-(2-hydroxy-ethyl)pyrrolidine (85 ul, 0.72 mmol) were added. The reaction mixture was stirred overnight at rt and then diluted with EA (20 ml) and washed with water and brine. After drying over sodium sulfate, the solvent was evaporated under vacuum and the crude was purified on preparative TLC, DCM/MeOH (9/1) to give 4-{2-[3-benzofuran-2-yl-4-(2-pyrrolidin-1-yl-ethoxy)but-2-enoylamino]ethoxy}benzoic acid methyl ester (0.94 mg) as an oil.

reactant | 4-[2-(3-benzofuran-2-yl-4-bromobut-2-enoylamino)ethoxy]benzoic acid methyl ester | 0.654 mmol, 300 mg | COC(C1=CC=C(C=C1)OCCN(C(C=CCBr)=O)C1=CC2=C(O1)C=CC=C2)=O | C22H20BrNO5
reactant | hydroxide monohydrate | 0.72 mmol, 121 mg | O.[OH-]
reactant | 1-(2-hydroxy-ethyl)pyrrolidine | 0.72 mmol, 85 ul | OCCN1CCCC1 | C6H13NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.13 mmol, 49 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EA | 20 ml | CC(OCC)=O | C4H8O2
product | 4-{2-[3-benzofuran-2-yl-4-(2-pyrrolidin-1-yl-ethoxy)but-2-enoylamino]ethoxy}benzoic acid methyl ester | 0.94 mg | COC(C1=CC=C(C=C1)OCCN(C(C=CCOCCN1CCCC1)=O)C1=CC2=C(O1)C=CC=C2)=O | C28H32N2O6
